US04812458
A solution of 300 mg (0.99 mmol) 2,3-dihydroxy-6-trimethylsilylethynyl-7-nitroquinoxaline in 10 ml methanol is added 200 mg (1.45 mmol) potassium carbonate and then stirred at room temperature for 1 h. The reaction mixture is evaporated in vacuo and added water and 4N hydrochloric acid to pH 6. The precipitated product is filtered off and washed with water to give 200 mg (88%) of 6-ethynyl-2,3-dihydroxy-7-nitroquinoxaline m.p. >300° C.

reactant | 2,3-dihydroxy-6-trimethylsilylethynyl-7-nitroquinoxaline | 0.99 mmol, 300 mg | OC1=NC2=CC(=C(C=C2N=C1O)C#C[Si](C)(C)C)[N+](=O)[O-] | C13H13N3O4Si
reactant | potassium carbonate | 1.45 mmol, 200 mg | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 10 ml | CO | CH4O
product | 6-ethynyl-2,3-dihydroxy-7-nitroquinoxaline | 200 mg, 88% | C(#C)C=1C=C2N=C(C(=NC2=CC1[N+](=O)[O-])O)O | C10H5N3O4
